US07371743B2
(b) 4-fluoro-3-methyl-benzamide
15.70 g (91.0 mmol) 4-fluoro-3-methyl-benzoic acid chloride dissolved in 30 ml THF are added dropwise to 300 ml of conc. ammonia solution and then stirred for 2 hours at ambient temperature. The precipitate formed is filtered off, washed with water and dried.

reactant | 4-fluoro-3-methyl-benzoic acid chloride | 91.0 mmol, 15.70 g | FC1=C(C=C(C(=O)Cl)C=C1)C | C8H6ClFO
reactant | ammonia | 300 ml | N | H3N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-fluoro-3-methyl-benzamide | FC1=C(C=C(C(=O)N)C=C1)C | C8H8FNO
